US09216998B2
Phenyl isocyanate (3.8 mg, 0.05 mmol) was added to a solution of 6-phenethyl-7-(trifluoromethyl)-1,2,3,4,6,7-hexahydro-[1,4]diazepino[6,7,1-hi]indol-6-ol trifluoroacetate (14 mg, 0.039 mmol) in THF (3 mL) containing triethylamine (11 mg, 0.11 mmol) at 0° C. The resulting mixture was stirred at 0° C. for 30 min, then stirred at room temperature overnight. The resulting mixture was concentrated under reduced pressure, the residue dissolved in ethyl acetate and the resulting solution was washed sequentially with water, NaHCO3 (sat'd. aq) and brine. The organic phase was dried (Na2SO4) and concentrated to yield 6-hydroxy-6-phenethyl-N-phenyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide (MH+=482).

reactant | Phenyl isocyanate | 0.05 mmol, 3.8 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 6-phenethyl-7-(trifluoromethyl)-1,2,3,4,6,7-hexahydro-[1,4]diazepino[6,7,1-hi]indol-6-ol trifluoroacetate | 0.039 mmol, 14 mg | FC(C(=O)O)(F)F.C(CC1=CC=CC=C1)C1(C(C=2C=CN3C2C(=C1)CNCC3)C(F)(F)F)O
reactant | triethylamine | 0.11 mmol, 11 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-hydroxy-6-phenethyl-N-phenyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide | OC1(C(C=2C=CN3C2C(=C1)CNC(C3)C(=O)NC3=CC=CC=C3)C(F)(F)F)CCC3=CC=CC=C3 | C27H26F3N3O2
